US06350907B1
(2S,3R)-3-([(1S)-2,2-Dimethyl-1-([(1R)-1-phenylethyl]aminocarbonyl)propyl]aminocarbonyl)-2ethoxy-6-(3-fluoro-4-phenoxyphenyl)hexanoic acid.
Lithium hydroxide hydrate (116 mg, 2.83 mmol) was added to a solution of methyl (2S,3R)-3-({[(1S)-2,2-dimethyl-1-({[(1R)-1-phenylethyl]amino}carbonyl)propyl]amino}carbonyl)-2-ethoxy-6-(3-fluoro-4-phenoxyphenyl)hexanoate (368 mg, 0.566 mmol) in methanol:water=10:1 (5 mL) and the mixture was stirred at room temperature for 2 h. The solution was neutralised with 5% aqueous citric acid and concentrated under reduced pressure. The residue was partitioned between ethyl acetate (100 mL) and 5% aqueous citric acid (20 mL), washed with saturated aqueous sodium chloride (20 mL), dried MgSO4), and concentrated under reduced pressure. Purification by flash chromatography (eluting with dichloromethane:methanol=20:1 to 10:1) gave the title compound (62 mg, 18%) as a colourless glass, and some mixed fractions. These were combined and repurified by flash chromatography (eluting with ethyl acetate:hexane:acetic acid=33:66:1 to 50:50:1) to give the title compound (37 mg, 11%), as a white solid.

reactant | Lithium hydroxide hydrate | 2.83 mmol, 116 mg | O.[OH-].[Li+]
reactant | methyl (2S,3R)-3-({[(1S)-2,2-dimethyl-1-({[(1R)-1-phenylethyl]amino}carbonyl)propyl]amino}carbonyl)-2-ethoxy-6-(3-fluoro-4-phenoxyphenyl)hexanoate | 0.566 mmol, 368 mg | CC([C@@H](C(=O)N[C@H](C)C1=CC=CC=C1)NC(=O)[C@@H]([C@@H](C(=O)OC)OCC)CCCC1=CC(=C(C=C1)OC1=CC=CC=C1)F)(C)C | C36H45FN2O6
reactant | water | O | H2O
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | methanol | CO | CH4O
product | (2S,3R)-3-([(1S)-2,2-Dimethyl-1-([(1R)-1-phenylethyl]aminocarbonyl)propyl]aminocarbonyl)-2ethoxy-6-(3-fluoro-4-phenoxyphenyl)hexanoic acid | 62 mg, 18% | CC([C@@H](C(=O)N[C@H](C)C1=CC=CC=C1)NC(=O)[C@@H]([C@@H](C(=O)O)OCC)CCCC1=CC(=C(C=C1)OC1=CC=CC=C1)F)(C)C | C35H43FN2O6
